US08049016B2
Preparation of ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate
To a solution of ethyl 2-amino-4-methylthiazole-5-carboxylate (9.31 g, 49.99 mmol) in tetrahydrofuran (200 mL) was added 2-chloroethyl isocyanate (5.50 mL, 64.0 mmol) at ambient temperature. The resulting reaction mixture was heated to reflux for 7 hours, followed by the addition of potassium carbonate (8.30 g, 60.0 mmol) and tetra-n-butylammonium iodide (0.50 g, 1.35 mmol) and the resulting mixture was heated to reflux for 23 hours. The solvent was removed in vacuo, and the residue was washed with water (200 mL) and ethyl acetate (50 mL) to afford the title compound in 71% yield (9.10 g): mp 197-199° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.83 (s, 1H), 4.20-3.93 (m, 4H), 3.49-3.43 (m, 2H), 2.46 (s, 3H), 1.20 (t, J=6.9 Hz, 3H); MS (ES+) m/z 256.3 (M+1).

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | 49.99 mmol, 9.31 g | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | 2-chloroethyl isocyanate | 64.0 mmol, 5.50 mL | ClCCN=C=O | C3H4ClNO
reactant | potassium carbonate | 60.0 mmol, 8.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
catalyst | tetra-n-butylammonium iodide | 1.35 mmol, 0.50 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | 71% yield | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
